Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
glyburide / Glucophage / Lexapro / hydrochlorothiazide
 
Attending: ___.
 
Chief Complaint:
GI bleed
 
Major Surgical or Invasive Procedure:
Intubation and mechanical ventilation (___)
EGD ___, and ___
Placement of femoral arterial line (___)
Mesenteric arteriogram (___)
___ embolization of L gastric artery (___)

 
History of Present Illness:
Mr. ___ is an ___ with PMH Afib, aortic stenosis s/p TAVR (on 
warfarin), systolic heart failure (EF ___ on ___ with 
clean cors in ___, CKD stage III-IV, IDDM, moderate COPD who 
presented to ___ on ___ with a chief complaint 
of GI bleed.  

On ___ morning, was otherwise in good health at his assisted 
living facility until after having a bowel movement. He did not 
notice if the bowel movement was dark or bloody. After using the 
bathroom, he took about 10 steps, felt extremely dizzy, and fell 
to the ground without losing consciousness. He was able to 
contact the nurse on the facility who then contacted the 
ambulance 

At ___:
On arrival to ___, was noted to have an SBP in the ___. He was 
admitted to ICU and placed on phenylephrine there for further 
management.  Lab data there notable for supratherapeutic INR at 
3.6 and HCT 16.  Pt was transfused 5uPRBC, to temporary 
improvement - but his HCT dropped again to 15.  At that point 
his INR was reversed with FFP and Vitamin K.  GI tried to place 
an NG tube but failed.  Pt was put on a PPI and amiodarone gtt 
(as he was tachycardic).  GI did not feel comfortable scoping Pt 
there, so he was transferred to ___ for further management.  

- He confirms that he usually has regular bowel movements every 
morning. Denies having a history of GI bleed. Denies ever having 
a colonoscopy or EGD done in his past. 
- Denies any recent sickness- no fevers, chills, flu like 
symptoms, diarrhea in the past week. 
 
 
Past Medical History:
Severe/critical AS
Acute on chronic diastolic/systolic HF with last EF ___
CKD Stage III-IV (GFR 34)
AFIB-no anticoagulation
Bicuspid aortic valve
COPD, moderate
Pulmonary HTN
HTN
Diabetes Type 2, on insulin
Hyperlipidemia
Pancreatitis
Anemia
Kidney stones
C diff colitis- Distant history of C diff colitis. 
BPH
macular degeneration
Urethral stricture:  Has a congenital stricture that requires 
small-bore foley catheter.
- Per urology:  Try ___ for ONE PASS.  If unsuccessful, 
call urology for placement of pediatric catheter.
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death.
 
Physical Exam:
ADMISSION EXAM:
===============
VITALS:  97.4  ___  28  99% 2L
GENERAL: no respiratory distress, nontoxic appearance, A&Ox3, 
pleasant mood
HEENT: AT/NC, EOMI, pupils unequal with L>R by approximately 
1mm, left pupil slightly oval shaped
NECK: no JVD at 45 degrees 
CARDIAC: tachycardic and irregular rhythm, normal S1/S2, no 
murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  

DISCHARGE EXAM:
===============
Expired
 
Pertinent Results:
ADMISSION LABS:
===============
___ 09:54PM BLOOD WBC-9.7# RBC-2.48* Hgb-7.6* Hct-22.3* 
MCV-90# MCH-30.6 MCHC-34.1 RDW-14.6 RDWSD-45.5 Plt Ct-52*#
___ 09:54PM BLOOD Neuts-68.9 Lymphs-14.7* Monos-13.6* 
Eos-1.9 Baso-0.4 NRBC-0.2* Im ___ AbsNeut-6.70*# 
AbsLymp-1.43 AbsMono-1.32* AbsEos-0.18 AbsBaso-0.04
___ 09:54PM BLOOD ___ PTT-28.3 ___
___ 09:54PM BLOOD Ret Aut-4.3* Abs Ret-0.11*
___ 09:54PM BLOOD Glucose-219* UreaN-48* Creat-2.6* Na-135 
K-5.2* Cl-103 HCO3-19* AnGap-18
___ 09:54PM BLOOD Calcium-7.7* Phos-5.6* Mg-2.1
___ 10:00PM BLOOD ___ pO2-29* pCO2-34* pH-7.37 
calTCO2-20* Base XS--5
___ 10:00PM BLOOD Lactate-2.8*
___ 10:00PM BLOOD O2 Sat-51

MICROBIOLOGY:
=============
NONE

STUDIES:
========
___ CXR: PICC line in place.  Significant interval 
improvement in cardiopulmonary findings. 

___ GI EMBOLIZATION:
1.  Successful embolization of the left gastric artery with 
stasis on post 
embolization angiogram. 
2.  Successful left common femoral vein central venous line 
placement and left common femoral artery arterial line 
placement. 

___ CT HEAD NON-CONTRAST:
1. No evidence of hemorrhage. 
2. Bilateral cerebellar hemisphere hypodensities, some of which 
appear 
well-defined are concerning for infarcts, age indeterminate but 
some may be more chronic. 
3. Probable sequelae of chronic small vessel ischemic disease. 
4. Prominent asymmetric right extra-axial space could be from 
cortical atrophy or chronic hygroma.  No midline shift. 

DISCHARGE LABS
==============
___ 04:55AM BLOOD WBC-10.0 RBC-2.24* Hgb-6.7* Hct-20.1* 
MCV-90 MCH-29.9 MCHC-33.3 RDW-15.7* RDWSD-49.2* Plt Ct-65*
___ 04:55AM BLOOD ___ PTT-32.3 ___
___ 04:55AM BLOOD ___ 04:55AM BLOOD Glucose-158* UreaN-65* Creat-4.3* Na-146* 
K-3.3 Cl-111* HCO3-11* AnGap-27*
___ 04:55AM BLOOD Calcium-7.6* Phos-7.3* Mg-2.2
___ 06:42AM BLOOD Vanco-7.9*
___ 05:14AM BLOOD Type-ART pO2-115* pCO2-24* pH-7.31* 
calTCO2-13* Base XS--12
___ 05:14AM BLOOD Lactate-1.3
___ 05:14AM BLOOD freeCa-1.09*
 
Brief Hospital Course:
BRIEF SUMMARY: Mr. ___ is an ___ with PMH Afib, aortic 
stenosis s/p TAVR (on warfarin), systolic heart failure (EF 
___ on ___ with clean cors in ___, CKD stage III-IV, 
IDDM, moderate COPD who was transferred from ___ 
for a brisk GI bleed s/p 9 units pRBC at ___. 

ACUTE ISSUES:
=============
#GI BLEED/ANEMIA: No prior history of GI bleed, but confirmed 
prior history of hemorrhoids. No prior EGD or colonoscopy per 
patient history. Did not notice dark or bloody stools until 
arriving to the hospital. No nausea or vomiting and was 
protecting his airway adequately during his hospitalization. 
Given at least 9uPRBC at the outside hospital prior to arrival 
here.  Was given a total of 13uPRBC during his hospitalization 
here, as well as 9u platelets and 9uFFP.  Started on IV 
pantoprazole BID and aminocaproic acid.  Underwent upper 
endoscopy with GI early in his hospital course, for which he was 
intubated.  Upper endoscopy showed old blood in stomach but 
otherwise no acute bleeding source. ___ team took patient down 
for angiography and found no obvious target of bleeding, which 
initially showed no area of active extravasation.  Blood volume 
continued to remain unstable.  

On ___ Pt went again to ___ and underwent a L gastric artery 
embolization.  His bleeding slowed, but he continued to require 
blood transfusions as above.  Subsequent upper endoscopy on 
___ notable for ischemic gastric mucosa.  Pt developed a 
two-pressor requirement (norepinephrine and vasopressin).  He 
was placed on octreotide and desmopressin for splanchnic 
vasoconstriction and improvement of uremic platelet dysfunction 
(see below), respectively.  Per discussion with family, Pt was 
made DNR/DNI and transitioned to comfort-focused care on 
___.  Pt was extubated and passed away on ___.  

#HFrEF:  EF ___ in ___. CVO2 51 and lactate 2.8 on 
admission, likely a combination of severe anemia and borderline 
shock. On clinical examination, appears euvolemic and not in 
acute heart failure.  Initially held his torsemide, metoprolol, 
digoxin, lisinopril and tamsulosin in setting of low BPs and 
___.  
Had fluid overload in setting of multiple blood transfusions, 
which was tolerated due to need to maintain stable blood volume.

#Altered mental status:  Pt was initially sedated for his 
intubation with propofol and pain controlled with fentanyl.  
Taken off propofol on ___ but continued to remain 
unresponsive and unable to follow commands.  CT head on ___ 
demonstrated bilateral cerebellar hemispheric hypodensities, 
concerning for infarct though time course indeterminate.  Amicar 
discontinued in the setting of possible ischemic event.  

#Atrial fibrillation with RVR: INR goal ___ given frequent 
episodes of supratherapeutic INR. On warfarin, supratherapeutic 
INR of 3.6 on initial presentation to OSH.  Reversed at OSH with 
INR 1.4 upon arrival to ___. Warfarin and metoprolol were held 
in setting of active GI bleed and low BPs. 

#Thrombocytopenia:  Dilutional and active consumption of 
platelets likely etiologies. Required frequent transfusions of 
platelets as above to prevent further dilutional 
thrombocytopenia.  Started on desmopressin given rising uremia 
in setting of acute-on-chronic kidney injury to improve platelet 
dysfunction.

#ANION GAP and NON-GAP METABOLIC ACIDOSIS: Downtrending bicarb 
in setting of shock + CKD; Lactate initially increased (2.8 on 
admission, to a peak of 3.2) but normalized. Diabetes reasonably 
well controlled. Possible contributors included renal failure, 
hyperchloremia, plus ongoing bloody output from rectal tube.

#HYPERNATREMIA:  Given D5 to replete free water deficit.

#IDDM: Home levemir + novolog. Started on lantus sliding scale 
during hospitalization. 

#ACUTE ON CKD STAGE III-IV: Cr 2.6 on admission with baseline 
around 1.6. Likely prerenal given low BPs and active bleeding. 
Has received volume back with blood and platelet transfusion, 
but with persistent fluid overload in setting of holding 
diuretics.  Creatinine trended up to a peak of 4.3.   

CHRONIC ISSUES:
#COPD: continued home inhalers without changes.

===================
TRANSITIONAL ISSUES
===================
# CODE: **DNR/DNI**
# CONTACT:
Name of health care proxy: ___
Relationship: Daughter
Phone number: ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Stiolto Respimat (tiotropium-olodaterol) 2.5-2.5 
mcg/actuation inhalation DAILY 
3. Warfarin 2.5-5 mg PO DAILY16 
4. Allopurinol ___ mg PO DAILY 
5. Digoxin 0.125 mg PO DAILY 
6. Ferrous Sulfate 325 mg PO DAILY 
7. Finasteride 5 mg PO DAILY 
8. Lisinopril 2.5 mg PO DAILY 
9. Multivitamins 1 TAB PO DAILY 
10. Tamsulosin 0.4 mg PO QHS 
11. Calcium Carbonate 500 mg PO TID 
12. Vitamin D3 (cholecalciferol (vitamin D3)) 2,000 unit oral 
DAILY 
13. Simvastatin 20 mg PO QPM 
14. Torsemide 20 mg PO DAILY 
15. Metoprolol Succinate XL 25 mg PO BID 
16. Pantoprazole 40 mg PO Q24H 
17. Levemir (insulin detemir) 100 unit/mL subcutaneous unknown 
18. NovoLOG (insulin aspart) 100 unit/mL subcutaneous unknown 

 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Deceased
 
Discharge Condition:
Deceased
 
Discharge Instructions:
Deceased
 
Followup Instructions:
___